US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (4-amino-butyl)-amide (I-73)
In a manner similar to that described Method N, 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (I-53) and tert-butyl 4-aminobutylcarbamate were converted to (2-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester, which was subsequently deprotected (Method K) to give I-73 (25%): HRMS Calcd. for C25H28N6O4: 477.2250, Found 477.2250.

reactant | 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C(=O)O)N1 | C21H18N4O5
reactant | tert-butyl 4-aminobutylcarbamate | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
reactant | (2-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC(=O)C=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1)=O | C28H32N6O6
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (4-amino-butyl)-amide | NCCCCNC(=O)C=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1 | C25H28N6O4
